US05403816
Preparation of methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(N-methyl-N-cyclohexylamino)picolinate (Compound No. 20)
11.0 g (36 mmol) of methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate N-oxide, 9.5 g (54 mmol) of N-methyl-N-cyclohexylcarbamoyl chloride, 10.5 g (70 mmol) of sodium iodide and 9.0 g (70 mmol) of diisopropylethylamine were added to 150 ml of acetonitrile and reacted at a temperature of from 60° to 70° C. for one hour. Water was added to the reaction solution, and the organic layer was extracted with ethyl acetate, dried and concentrated. The obtained oily product was purified by silica gel column chromatography (ethyl acetate-hexane) to obtain the desired product.

reactant | methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate N-oxide | 36 mmol, 11.0 g | COC1=NC(=NC(=C1)OC)OC1=C([N+](=CC=C1)[O-])C(=O)OC | C13H13N3O6
reactant | N-methyl-N-cyclohexylcarbamoyl chloride | 54 mmol, 9.5 g | CN(C(=O)Cl)C1CCCCC1 | C8H14ClNO
reactant | sodium iodide | 70 mmol, 10.5 g | [I-].[Na+]
reactant | diisopropylethylamine | 70 mmol, 9.0 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | Water | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(N-methyl-N-cyclohexylamino)picolinate | yield: 50% | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N(C1CCCCC1)C)C(=O)OC | C20H26N4O5
